US07582626B2
cis-2-{(4-Fluoro-benzyl)-[2-(7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetyl]-amino}-cyclooctanecarboxylic acid methyl ester (0.241 g, 0.396 mmol) was dissolved in ethanol (4 mL), a 21% w/w solution of sodium ethoxide in ethanol (0.739 mL, 1.98 mmol) was added. The mixture was stirred at 60° C. for 4 h and allowed to cool to 25° C. The mixture was poured into a 0.5 M aqueous hydrochloric acid solution (100 mL). The product started to precipitate and was collected by vacuum filtration. The precipitate was washed with water and dried under high vacuum to afford the pure product N-{3-[1-(4-fluoro-benzyl)-4-hydroxy-2-oxo-1,2,4a,5,6,7,8,9,10,10a-decahydro-cycloocta[b]pyridin-3-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide (0.07 g, 0.121 mmol, 31%), as a light yellow solid. 1H NMR (400 MHz, DMSO-d6) δ: 1.24-1.83 (12H, m), 3.04 (3H, s), 3.73-3.58 (2H, m), 4.21-4.46 (1H, m),4.99 (1H, d, J=16 Hz), 7.18 (2H, t, J=8 Hz), 7.47-7.53 (6H, m), 10.08 (1H, s). LC-MS (ESI) calcd for C26H29FN4O6S2 576.15, found 577.5 [M+H+].

reactant | cis-2-{(4-Fluoro-benzyl)-[2-(7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetyl]-amino}-cyclooctanecarboxylic acid methyl ester | 0.396 mmol, 0.241 g | COC(=O)[C@H]1[C@H](CCCCCC1)N(C(CC1=NS(C2=C(N1)C=CC(=C2)NS(=O)(=O)C)(=O)=O)=O)CC2=CC=C(C=C2)F | C27H33FN4O7S2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | hydrochloric acid | 0.5 M, 100 mL | Cl | ClH
solvent | ethanol | 4 mL | C(C)O | C2H6O
solvent | ethanol | 1.98 mmol, 0.739 mL | C(C)O | C2H6O
product | N-{3-[1-(4-fluoro-benzyl)-4-hydroxy-2-oxo-1,2,4a,5,6,7,8,9,10,10a-decahydro-cycloocta[b]pyridin-3-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide | 0.121 mmol, 0.07 g, 31% | FC1=CC=C(CN2C3C(C(=C(C2=O)C2=NS(C4=C(N2)C=CC(=C4)NS(=O)(=O)C)(=O)=O)O)CCCCCC3)C=C1 | C26H29FN4O6S2
